US07700657B2
(b) (3E,5E)-6-{3-[2-(3,4-Bis-hydroxymethylphenyl)ethyl]-phenyl}1,1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol
In a manner analogous to example 2m, by reaction of 1.2 g (1.67 mmol) of (3E,5E)-6-(3-{2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl]ethyl}phenyl)-1, 1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol with 4 ml (4 mmol) of a 1.0 M solution of tetrabutylammonium fluoride. A white solid is obtained (m.p.=104° C.; m=715 mg; Y=87%).

reactant | (3E,5E)-6-(3-{2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl]ethyl}phenyl)-1, 1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol | 1.67 mmol, 1.2 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC=1C=C(C=CC1)/C(=C/C=C/C(C(F)(F)F)(O)C(F)(F)F)/CC | C37H54F6O3Si2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3E,5E)-6-{3-[2-(3,4-Bis-hydroxymethylphenyl)ethyl]-phenyl}1,1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol | OCC=1C=C(C=CC1CO)CCC=1C=C(C=CC1)/C(=C/C=C/C(C(F)(F)F)(O)C(F)(F)F)/CC | C25H26F6O3
